US20010001799A1
TiCl4 (45.6 g, 238 mmol) was added slowly to a solution of 2-ethylphenol (15 g, 119 mmol) in CH2Cl2 (150 ml) was at 0° C. The mixture was warmed to room temperature and dichloromethyl methyl ether (18.3 ml, 200 mmol) was added (strong HCl evolution). The mixture was stirred for 4 h. at room temperature, subsequently cooled to 0° C. and 1M HCl (119 ml, 119 mmol) was added dropwise. The mixture was stirred for 10 min. and subsequently extracted with diethyl ether. The organic phase was washed with saturated NaHCO3 solution and with NaCl solution, dried, filtered and concentrated. The residue was purified by chromatography (SiO2, CH2Cl2=>CH2Cl2/MeOH 9:1). 3-Ethyl-4-hydroxy-benzaldehyde was obtained as a brown oil (7.97 g, 45%).

reactant | 2-ethylphenol | 119 mmol, 15 g | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | dichloromethyl methyl ether | 200 mmol, 18.3 ml | COC(Cl)Cl | C2H4Cl2O
reactant | HCl | Cl | ClH
reactant | HCl | 119 mmol, 1M, 119 ml | Cl | ClH
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 238 mmol, 45.6 g | Cl[Ti](Cl)(Cl)Cl
product | 3-Ethyl-4-hydroxy-benzaldehyde | C(C)C=1C=C(C=O)C=CC1O | C9H10O2
